US06844345B2
c) 6-Cyanomethyl-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
A suspension of 0.30 g (0.82 mmol) 6-bromo-4-methyl-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester, 0.29 g (3.3 mmol) copper(I)cyanide, 34.0 mg (0.030 mmol) tris(dibenzylideneacetone)dipalladium(0), 72.9 mg (0.013 mmol) 1,1′-bis(diphenylphosphino)ferrocene and 128.3 mg (0.82 mmol) tetraethylammonium cyanide in 6 ml dioxane was heated under reflux for 18 h. The reaction mixture was filtered, diluted with ethyl acetate and extracted with 10% aqueous citric acid, 10% aqueous sodium bicarbonate solution and brine. After drying over magnesium sulfate and filtration, the solvent was removed at a rotary evaporator and the residue was purified by chromatography on silica gel (0.032-0.063 mm) with n-hexane:ethyl acetate (9:1) as eluant to give the product as a light yellow foam. ISP-MS: m/e 312.2 ([M+H+]).

reactant | 6-bromo-4-methyl-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.82 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1CC=2N(C=3C(=CC=CC3C2)Br)C(C1)C | C17H21BrN2O2
reactant | copper(I)cyanide | 3.3 mmol, 0.29 g | [Cu]C#N
catalyst | tetraethylammonium cyanide | 0.82 mmol, 128.3 mg | [C-]#N.C(C)[N+](CC)(CC)CC
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.030 mmol, 34.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.013 mmol, 72.9 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 6-Cyanomethyl-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N(C=3C(=CC=CC3C2)CC#N)CC1 | C18H21N3O2
